US04503063
1-Carboxy-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
1-Cyano-2-(2,4-Dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-2-propanol (4 g, 13.9 mmole) was dissolved in 40% aqueous sulfuric acid (100 ml) and heated in an oil bath at 100°-110° C. for 18 hours. The solution was then cooled, diluted with water (200 ml), and rendered alkaline by the slow addition of solid sodium bicarbonate. The mixture was then extracted several times with ethyl acetate (3×100 ml.) and the aqueous phase was rendered acidic (pH 3) by the addition of dilute orthophosphoric acid. The aqueous phase was then extracted with ethyl ether (3×150 ml), the combined ether extracts were washed once with water, and then dried over magnesium sulfate. Evaporation of the ether gave the title compound as a pale yellow solid, 2.7 g, (62%), m.p. 158°-159° C.

reactant | 1-Cyano-2-(2,4-Dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-2-propanol | 13.9 mmole, 4 g | C(#N)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 ml | O | H2O
product | 1-Carboxy-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | C(=O)(O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H11Cl2N3O3
